US07612201B2
Benzyl bromide (30 mL) was added to a mixture of 1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone (20 g, 0.107 moles) and potassium carbonate (37 g, 2.5 equiv) in acetonitrile (350 mL). The mixture was heated at reflux for 6 hours then allowed to cool and stirred overnight. The mixture was filtered and the solids were washed with dichloromethane (3×100 mL). The combined organic extracts were evaporated in vacuo to leave a pale yellow solid which was triturated with a mixture of hexane (350 mL)/ethyl acetate (15 mL) and filtered to give an off-white solid, 1-(2,4-bis-benzyloxy-5-chloro-phenyl)-ethanone (35.4 g, 90%). 1H NMR (400 MHz) consistent with structure.

reactant | Benzyl bromide | 30 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone | 0.107 moles, 20 g | ClC=1C(=CC(=C(C1)C(C)=O)O)O | C8H7ClO3
reactant | potassium carbonate | 37 g, 2.5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
product | 1-(2,4-bis-benzyloxy-5-chloro-phenyl)-ethanone | 35.4 g, 90% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C(C)=O | C22H19ClO3
